2125-04-12 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Please see prior MICU admission notes as patient is well-known to the
   ICU service. Briefly, this is a 79 y.o. female with a history of ILD in
   the setting of RA, on steroids and not a candidate for more aggressive
   treatment, also with diastolic CHF, repeatedly admitted to the ICU with
   hypoxia. Patient was called out from the MICU on [**4-10**] after resolution
   of hypoxia with diuresis and was doing well, on nasal cannula. She went
   for a CTA chest which showed no PE and was given IVF afterwards (total
   of 800ccs) and approximately 6 hours later developed increasing oxygen
   requirement with a maximum of 6 L NC and concomitant 50% shovel mask,
   with oxygen saturation in the low 90s resulting in a trigger. ABG
   revealed: 7.49/43/63/34. CXR was largely unchanged from prior. She was
   given 40 mg of IV Lasix (in addition to 40 earlier in the day) with
   approximately 400 ccs of UOP, but no change in oxygenation. There was
   inconsistency between pulse ox on the finger vs. the forehead and
   patient did have finger nail polish which was felt to be possibly
   affecting pulse ox, so the forehead probe was used which showed higher
   readings in the mid 90s. Still, patient was unable to be weaned down
   from shovel mask. Thus, she was transferred back to the MICU for
   further management. Of note, patient displayed aggressive behavior
   again and received a total of 1.5 mg of Haldol. Upon evaluation by the
   MICU team, she was resting comfortably, but arousable.
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-12**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 78 (74 - 78) bpm
   BP: 141/69(87) {127/49(73) - 141/69(87)} mmHg
   RR: 22 (21 - 23) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 83.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    225 mL
   Urine:
   225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General: Sleeping but arousable
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: Largely unable to cooperate with exam, but no obvious
   crackles (prior exam by NF intern documented crackles)
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, ankles swollen but firm, 2+ radial,
   DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   295 K/uL
   10.6 g/dL
   97 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.1 mEq/L
   32 mg/dL
   97 mEq/L
   140 mEq/L
   29.9 %
   9.6 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
                             [**2125-4-12**]  03:11 AM
   WBC
   9.3
   6.5
   9.6
   Hct
   27.3
   32.2
   29.9
   Plt
   275
   311
   295
   Cr
   0.9
   0.9
   0.7
   1.0
   TropT
   <0.01
   Glucose
   117
   99
   102
   97
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Echo ([**4-10**]): The left atrium is elongated. There is moderate symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. Overall left ventricular systolic function is normal
   (LVEF>55%). Right ventricular chamber size and free wall motion are
   normal. The ascending aorta is moderately dilated. The aortic valve
   leaflets (3) are mildly thickened. There is no aortic valve stenosis.
   Trace aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. Trivial mitral regurgitation is seen. The tricuspid
   valve leaflets are mildly thickened. The estimated pulmonary artery
   systolic pressure is normal. There is no pericardial effusion.
   Assessment and Plan
   79 yo F h/o ILD (normal O2 sat at baseline), RA, atrial flutter, CHF,
   pacemaker, dementia admitted for hypoxia.
   .
   # Hypoxia: Patient has known, ILD with poor reserve. She is not felt to
   be a candidate for more aggressive treatment. Moreover, it is not felt
   that her recurrent decompensations are due to her ILD as there is no
   reason for a chronic disease of this nature to so readily decompensate.
   The current thought has been that patient is having recurrent episodes
   of pulmonary edema in the setting of diastolic dysfunction confirmed on
   most recent echo. This episode likely exacerbant was IVF s/p CTA. CTA
   ruled out PE and there is no suggestion of pulmonary infection. Patient
   had been diuresed, but could not be weaned down on O2 and though her
   ABG was not largely changed from prior, she was on a much more
   significant amount of oxygen than prior, suggesting an increased
   gradient. Given that diuresis did not work, patient was transferred to
   the ICU for possible BiPAP.
   - Continue to monitor oxygen saturation and wean as tolerated with O2
     goal of 88-93%. Can use BiPAP as an adjunct to wean
   - Though etiology today seems clear, consider TTE with bubbles to  rule
   out shunt
   - Continue daily Lasix
   .
   # RA
   - Continue Prednisone and Plaquenil
   - f/u rheum recs and labs (RF, [**Doctor First Name **]/CRP/ESR)
   .
   #Hypothyroidism
   - Continue Levothyroxine
   .
   #Spinal Stenosis
   - Hold Oxycodone for now to prevent exacerbation of respiratory
     failure
   .
   #) Prophylaxis
   - PPI
   - SC Heparin
   - Bowel Regimen
   .
   #) FEN
   - NPO for now
   - Correct/Replete electrolytes PRN
   .
   #) Access
   - PIVs
   .
   #) Code Status: DNR/DNI
   .
   #) Dispo: pending further work-up and treatment
   .
   # Communication: [**Last Name (un) 7075**] [**Last Name (un) 7445**], [**Telephone/Fax (1) 7493**]; [**Telephone/Fax (1) 7494**] (home) - I
   left a message asking him to call back on [**4-8**] 4PM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-12**] 02:27 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: DNR / DNI
   Disposition: ICU

2125-04-13 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Lasix 40 mg IV x 1, approx 2 L negative at midnight
   - per [**Female First Name (un) **] given risperidone qHS and prn, also given 0.5 mg haldol x 1
   for agitation
   - NPO per speech and swallow
   - screened for [**Hospital **] rehab
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-4-12**] 12:34 PM
   Heparin Sodium (Prophylaxis) - [**2125-4-12**] 02:52 PM
   Haloperidol (Haldol) - [**2125-4-12**] 09:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-13**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 60 (60 - 81) bpm
   BP: 134/65(82) {82/41(56) - 139/72(89)} mmHg
   RR: 22 (17 - 41) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 84.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                                                                    160 mL
                                                                     30 mL
   PO:
                                                                    160 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    178 mL
   Urine:
                                                                  2,085 mL
                                                                    178 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,925 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   10.4 g/dL
   92 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   25 mg/dL
   104 mEq/L
   145 mEq/L
   31.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
                             [**2125-4-12**]  03:11 AM
                             [**2125-4-12**]  05:03 PM
                             [**2125-4-13**]  03:14 AM
   WBC
   9.3
   6.5
   9.6
   9.1
   Hct
   27.3
   32.2
   29.9
   31.7
   31.5
   Plt
   275
   311
   295
   324
   Cr
   0.9
   0.9
   0.7
   1.0
   0.9
   0.9
   TropT
   <0.01
   Glucose
   117
   99
   102
   97
   92
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   79 yo F h/o ILD (normal O2 sat at baseline), RA, atrial flutter, CHF,
   pacemaker, dementia admitted for hypoxia.
   .
   # Hypoxia: Patient has known, ILD with poor reserve. She is not felt to
   be a candidate for more aggressive treatment. Moreover, it is not felt
   that her recurrent decompensations are due to her ILD as there is no
   reason for a chronic disease of this nature to so readily decompensate.
   The current thought has been that patient is having recurrent episodes
   of pulmonary edema in the setting of diastolic dysfunction confirmed on
   most recent echo. Today's likely exacerbant was IVF s/p CTA. CTA ruled
   out PE and there is no suggestion of pulmonary infection. Patient had
   been diuresed, but could not be weaned down on O2 and though her ABG
   was not largely changed from prior, she was on a much more significant
   amount of oxygen than prior, suggesting an increased gradient. Given
   that diuresis did not work, patient was transferred to the ICU for
   possible BiPAP.
   - Continue to monitor oxygen saturation and wean as tolerated with O2
     goal of 88-93%. Can use BiPAP as an adjunct to wean
   - Though etiology today seems clear, consider TTE with bubbles to
     rule out shunt
   - Continue daily Lasix
   .
   # RA
   - Continue Prednisone and Plaquenil
   - f/u rheum recs and labs (RF, [**Doctor First Name **]/CRP/ESR)
   .
   # Atrial flutter
   - Pacemaker
   .
   #Hypothyroidism
   - Continue Levothyroxine
   .
   #Spinal Stenosis
   - Hold Oxycodone for now to prevent exacerbation of respiratory
     failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-11**] 02:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2125-04-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TBB even, lasix [**Hospital1 **]
   - Left message with son.
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2125-4-13**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2125-4-13**] 05:39 PM
   Furosemide (Lasix) - [**2125-4-13**] 06:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 61) bpm
   BP: 113/44(59) {84/36(48) - 137/87(96)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 91%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 84.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                                                                    400 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    878 mL
                                                                    170 mL
   Urine:
                                                                    878 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -478 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   10.4 g/dL
   92 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   25 mg/dL
   104 mEq/L
   145 mEq/L
   31.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
                             [**2125-4-12**]  03:11 AM
                             [**2125-4-12**]  05:03 PM
                             [**2125-4-13**]  03:14 AM
   WBC
   9.3
   6.5
   9.6
   9.1
   Hct
   27.3
   32.2
   29.9
   31.7
   31.5
   Plt
   275
   311
   295
   324
   Cr
   0.9
   0.9
   0.7
   1.0
   0.9
   0.9
   TropT
   <0.01
   Glucose
   117
   99
   102
   97
   92
   Other labs: PT / PTT / INR:14.3/30.5/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   Mrs. [**Last Name (STitle) 7573**] is a 79 year old female with a his of RA, RA associated
   ILD, atrial fibrillation/flutter, CHF, and dementia admitted for
   hypoxia.
   # Hypoxia: baseline RA-associated ILD with poor pulmonary reserve
   superimposed with pulmonary edema in the setting of diastolic
   dysfunction. CTA ruled out PE and there is no suggestion of pulmonary
   infection.
   - Continue to monitor oxygen saturation and wean O2 as tolerated with
   goal SaO2 >90%.
   - Continue daily Lasix with goal TBB even to -500 cc/day.
   - Defer increased corticosteroid or cytotoxic therapy for now.
   - After load reduction with captopril
   - Appreciate SS eval. Recommend thin liquids and ground solids with 1:1
   supervision with crushed meds in puree.
   # Agitation: Discuss with [**Female First Name (un) **]-med. Would consider switching risperdal
   to haldol.
   # RA
   - Continue prednisone and plaquenil
   # Atrial flutter/fib: Rate decreased to increase LV filling time two
   days ago. Patient continues to be paced.
   # Hypothyroidism
   - Continue Levothyroxine
   # Spinal Stenosis
   - Hold Oxycodone for now to prevent exacerbation of respiratory
   failure
   FEN: Appreciate S+S recs. Thin liquids and ground solids with 1:1
   supervision. Replete as necessary.
   PPx: Heparin SQ
   Code: DNR/DNI
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-11**] 02:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2125-04-15 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gerimed recs - d/c risperdal and restart haldol
   - Switched to 20 mg po bid lasix
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-4-14**] 12:45 PM
   Haloperidol (Haldol) - [**2125-4-14**] 09:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-15**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 62) bpm
   BP: 124/55(70) {100/42(59) - 147/80(86)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 84.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                                                                    500 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    784 mL
                                                                    108 mL
   Urine:
                                                                    784 mL
                                                                    108 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -284 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   11.1 g/dL
   97 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   27 mg/dL
   101 mEq/L
   143 mEq/L
   33.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
                             [**2125-4-12**]  03:11 AM
                             [**2125-4-12**]  05:03 PM
                             [**2125-4-13**]  03:14 AM
                             [**2125-4-15**]  02:06 AM
   WBC
   9.3
   6.5
   9.6
   9.1
   7.8
   Hct
   27.3
   32.2
   29.9
   31.7
   31.5
   33.1
   Plt
   275
   311
   295
   324
   307
   Cr
   0.9
   0.9
   0.7
   1.0
   0.9
   0.9
   0.8
   TropT
   <0.01
   Glucose
   117
   99
   102
   97
   92
   97
   Other labs: PT / PTT / INR:14.0/26.8/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   Mrs. [**Last Name (STitle) 7573**] is a 79 year old female with a his of RA, RA associated
   ILD, atrial fibrillation/flutter, CHF, and dementia admitted for
   hypoxia.
   # Hypoxia: baseline RA-associated ILD with poor pulmonary reserve
   superimposed with pulmonary edema in the setting of diastolic
   dysfunction. CTA ruled out PE and there is no suggestion of pulmonary
   infection.
   - Continue to monitor oxygen saturation and wean O2 as tolerated with
   goal SaO2 >90%.
   - Convert to PO lasix (20 po bid with goal TBB even to -500 cc/day.
   - Defer increased corticosteroid or cytotoxic therapy for now.
   - After load reduction with captopril
   # Agitation: Per [**Female First Name (un) **]-med, risperdal held and restarted haldol with
   marked improved in agitation.
   - Continue haldol qhs and prn
   # RA
   - Continue prednisone and plaquenil
   # Atrial flutter/fib: Rate decreased to increase LV filling time two
   days ago. Patient continues to be paced.
   # Hypothyroidism
   - Continue Levothyroxine
   # Spinal Stenosis
   - Hold Oxycodone for now to prevent exacerbation of respiratory
   failure
   FEN: Appreciate S+S recs. Thin liquids and ground solids with 1:1
   supervision. Replete as necessary.
   PPx: Heparin SQ
   Code: DNR/DNI
   Dispo: Call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-11**] 02:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2125-04-16 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Known lastname 7548**] is a 79 year old female with a his of RA,
   RA associated ILD, atrial flutter, CHF, and dementia admitted for
   hypoxia.
   24 Hour Events:
   - Gerimed recs- continue haldol, add APAP 1000mg TID standing, standing
   colace/senna and dulcolax po prn.
   - Spoke with son [**Name (NI) 7075**] ([**Telephone/Fax (1) 7608**], will get palliative care c/s
   in AM
   Allergies:
   Verapamil
   Unknown;
   Nsaids
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-4-15**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2125-4-15**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-4-16**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 60 (60 - 62) bpm
   BP: 126/59(74) {83/47(62) - 129/73(85)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 84.5 kg (admission): 83.8 kg
   Height: 68 Inch
                  Total In:
                                                                    800 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    333 mL
                                                                    220 mL
   Urine:
                                                                    333 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    467 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   307 K/uL
   11.1 g/dL
   97 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.6 mEq/L
   27 mg/dL
   101 mEq/L
   143 mEq/L
   33.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2125-4-7**]  03:24 PM
                             [**2125-4-8**]  03:37 AM
                             [**2125-4-10**]  04:45 AM
                             [**2125-4-12**]  03:11 AM
                             [**2125-4-12**]  05:03 PM
                             [**2125-4-13**]  03:14 AM
                             [**2125-4-15**]  02:06 AM
   WBC
   9.3
   6.5
   9.6
   9.1
   7.8
   Hct
   27.3
   32.2
   29.9
   31.7
   31.5
   33.1
   Plt
   275
   311
   295
   324
   307
   Cr
   0.9
   0.9
   0.7
   1.0
   0.9
   0.9
   0.8
   TropT
   <0.01
   Glucose
   117
   99
   102
   97
   92
   97
   Other labs: PT / PTT / INR:14.0/26.8/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**4-16**], Alk Phos / T Bili:85/0.4,
   Differential-Neuts:89.9 %, Lymph:6.5 %, Mono:2.8 %, Eos:0.6 %,
   Albumin:3.0 g/dL, LDH:299 IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 7548**] is a 79 year old female with a his of RA, RA associated
   ILD, atrial flutter, CHF, and dementia admitted for hypoxia.
   # Hypoxia: Current hypoxia secondary to end-stage RA-associated ILD.
   Patient appears euvolemic on exam today.
   - Wean supplemental oxygen with goal SaO2 >90%
   - Convert to maintenance po lasix with goal TBB even
   - Hold on increasing steroid dose or cytotoxic therapy
   - Attempt to contact son.
   - Continue afterload reduction with captopril
   # Agitation: Per [**Female First Name (un) **]-med, risperdal held and restarted haldol with
   marked improved in agitation.
   - Continue haldol qhs and prn
   - Follow-up with [**Female First Name (un) **]-med recs if any
   - Check ECG
   # RA
   - Continue prednisone and plaquenil
   # Atrial flutter: Rate decreased to increase LV filling time two days
   ago. Patient continues to be paced.
   # Hypothyroidism
   - Continue Levothyroxine, convert to PO.
   # Spinal Stenosis
   - Hold Oxycodone for now to prevent exacerbation of respiratory
   failure
   FEN: Thin liquids and ground solids with 1:1 supervision per S+S.
   Replete as necessary.
   PPx: Heparin SQ
   Code: DNR/DNI
   Contact: [**Name (NI) **] [**Name (NI) 7075**] [**Telephone/Fax (1) 7493**]
   [**Name2 (NI) **]o: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2125-4-11**] 02:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: